US04692393
(4) Synthesis of 2,7-diamino-9-(3-methylbenzoxazolinylidene)ethylidenefluorene
Zinc dust in an amount of 40 g was added with 50 ml of 10% hydrochloric acid, and the resulted solution was lightly stirred and was then filtrated. The resulted matter was washed with ethanol, so that an active zinc dust was obtained. The resulted active zinc dusts were put into a flask of 300 ml capacity, and whereto 4.13 g (0.01 mole) of 2,7-dinitro-9-(3-methylbenzoxazolinylidene)ethylidenefluorene and 100 ml of ethanol were added, and further 2.5 ml of an aqueous solution of 0.56 g (0.005 mole) of calcium chloride were added thereto, and the resulted mixture was refluxed for 4 hours, and was then heat-filtrated. The mother liquid thereof was condensed, so that the objective matter was obtained. The yield thereof was 1.84 g (52%).

reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | 2,7-dinitro-9-(3-methylbenzoxazolinylidene)ethylidenefluorene | [N+](=O)([O-])C1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])=CC=C1OC2=C(N1C)C=CC=C2 | C23H15N3O5
reactant | calcium chloride | 0.005 mole, 0.56 g | [Cl-].[Ca+2].[Cl-]
catalyst | Zinc | [Zn] | Zn
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,7-diamino-9-(3-methylbenzoxazolinylidene)ethylidenefluorene | NC1=CC=2C(C3=CC(=CC=C3C2C=C1)N)=CC=C1OC2=C(N1C)C=CC=C2 | C23H19N3O
